US08198267B2
2-(Bromomethyl)-1-fluoro-4-nitrobenzene
186 g (1.2 mol) of 2-fluoro-5-nitrotoluene are dissolved in 1.2 l of tetrachloromethane and admixed with 214 g (1.20 mol) of N-bromosuccinimide. 19.7 g (120 mmol) of azodiisobutyronitrile are added and the mixture is heated under reflux. After 16 h, the mixture is allowed to cool, filtered and concentrated to dryness under reduced pressure. The residue is dissolved in 300 ml of dichloromethane and admixed with 300 g of Seesand. Then the mixture is concentrated to dryness under reduced pressure again, and the residue is applied to a 1 kg silica gel column. It is chromatographed with a 20:1 mixture of cyclohexane and ethyl acetate, and the product fractions are concentrated to dryness under reduced pressure. The residue is crystallized with cyclohexane and dried under reduced pressure. This affords 92 g (32% of theory) of the desired product.

reactant | 2-fluoro-5-nitrotoluene | 1.2 mol, 186 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | N-bromosuccinimide | 1.20 mol, 214 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azodiisobutyronitrile | 120 mmol, 19.7 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | tetrachloromethane | 1.2 l | ClC(Cl)(Cl)Cl | CCl4
product | 2-(Bromomethyl)-1-fluoro-4-nitrobenzene | BrCC1=C(C=CC(=C1)[N+](=O)[O-])F | C7H5BrFNO2
